US08314098B2
Synthesis of N-(3-isopropenyl-benzylidene)-N′-(7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 143)
There was dissolved, in ethanol (2 mL), (7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (30.4 mg, 0.0976 mM), then 3-isopropenyl-benzaldehyde (14.3 mg, 0.0976 mM) was added to the solution and the mixture was stirred at room temperature overnight. The reaction liquid was filtered and then the resulting solid was washed with diethyl ether to thus give the title compound (26.6 mg, yield: 62%).

reactant | (7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0976 mM, 30.4 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=NC=C2)NN | C15H17N7O
reactant | 3-isopropenyl-benzaldehyde | 0.0976 mM, 14.3 mg | C(=C)(C)C=1C=C(C=O)C=CC1 | C10H10O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-isopropenyl-benzylidene)-N′-(7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 26.6 mg, yield: 62% | C(=C)(C)C=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=NC=C3)C=CC1 | C25H25N7O
